simulator lang=spice
.include "../models/ptm45/nmos_vtl_bsim4.inc"
.include "../models/ptm45/pmos_vtl_bsim4.inc"
simulator lang=spectre

subckt inv45 (in out vdd)
MP (out in vdd vdd) PMOS_VTL w=4200n l=45n
MN (out in 0 0) NMOS_VTL w=240n l=45n
ends inv45

subckt ring3 (out vdd)
parameters cload=103.18f
X0 (n2 out vdd) inv45
X1 (out n1 vdd) inv45
X2 (n1 n2 vdd) inv45
C0 (out 0) capacitor c=cload ic=0.45
C1 (n1 0) capacitor c=cload ic=0.65
C2 (n2 0) capacitor c=cload ic=0.55
ends ring3

subckt qphase (loi qn qp vdd)
parameters cphase=1.086p
RQP (loi qrc) resistor r=1k
CQP (qrc 0) capacitor c=cphase
XQB (qrc qn vdd) inv45
XINVQ (qn qp vdd) inv45
ends qphase

// Two-bit PMOS weighted-current DAC followed by a transistor LO switch.
// b1/b0 are digital testbench inputs; no analog baseband source is used.
subckt mod_dac2 (bl b1 b0 lon vdd)
XIB0 (b0 b0b vdd) inv45
XIB1 (b1 b1b vdd) inv45
MNB (vb vb 0 0) NMOS_VTL w=1200n l=90n
MPB (vb vb vdd vdd) PMOS_VTL w=1200n l=90n
MCS0 (c0 vb vdd vdd) PMOS_VTL w=250n l=90n
MCS1 (c1 vb vdd vdd) PMOS_VTL w=450n l=90n
MS0 (nsum b0b c0 vdd) PMOS_VTL w=500n l=45n
MS1 (nsum b1b c1 vdd) PMOS_VTL w=1u l=45n
RLEAK (nsum vdd) resistor r=100k
MLO (bl lon nsum vdd) PMOS_VTL w=1u l=45n
ends mod_dac2

subckt gilbert_demod (rfp rfn lop lon outp outn vb vdd)
MTAIL (tail vb 0 0) NMOS_VTL w=600n l=90n
MRFP (xp rfp tail 0) NMOS_VTL w=600n l=90n
MRFN (xn rfn tail 0) NMOS_VTL w=600n l=90n
MSW1 (outp lop xp 0) NMOS_VTL w=600n l=90n
MSW2 (outn lon xp 0) NMOS_VTL w=600n l=90n
MSW3 (outp lon xn 0) NMOS_VTL w=600n l=90n
MSW4 (outn lop xn 0) NMOS_VTL w=600n l=90n
RLP (vdd outp) resistor r=5k
RLN (vdd outn) resistor r=5k
CINTP (outp 0) capacitor c=2p
CINTN (outn 0) capacitor c=2p
ends gilbert_demod

// High-input-impedance differential buffer followed by per-carrier tuned sections.
subckt diff_buffer (inp inn outp outn vb vdd)
MTAIL (tail vb 0 0) NMOS_VTL w=1u l=90n
MIP (outp inp tail 0) NMOS_VTL w=800n l=90n
MIN (outn inn tail 0) NMOS_VTL w=800n l=90n
RLP (vdd outp) resistor r=7k
RLN (vdd outn) resistor r=7k
COP (outp 0) capacitor c=80f
CON (outn 0) capacitor c=80f
ends diff_buffer

subckt tuned_select (inp inn outp outn vcm)
parameters lval=20n cval=20p cpl=500f rdamp=10k rout=100
CCP (inp np) capacitor c=cpl
CCN (inn nn) capacitor c=cpl
CLP (np vcm) capacitor c=cval
CLN (nn vcm) capacitor c=cval
LLP (np vcm) inductor l=lval
LLN (nn vcm) inductor l=lval
RDP (np vcm) resistor r=rdamp
RDN (nn vcm) resistor r=rdamp
ROP (np outp) resistor r=rout
RON (nn outn) resistor r=rout
ends tuned_select

subckt sample_hold (in samp clki clkn vdd)
MN (samp clki in 0) NMOS_VTL w=600n l=45n
MP (samp clkn in vdd) PMOS_VTL w=1.2u l=45n
CS (samp 0) capacitor c=100f
ends sample_hold

subckt dynamic_slicer (inp inn clke dtrue dcomp vdd)
MPRP (xp clke vdd vdd) PMOS_VTL w=1.2u l=45n
MPRN (xn clke vdd vdd) PMOS_VTL w=1.2u l=45n
MIP (xp inp tail 0) NMOS_VTL w=1u l=90n
MIN (xn inn tail 0) NMOS_VTL w=1u l=90n
MT (tail clke 0 0) NMOS_VTL w=1u l=90n
MLP (xp xn tail 0) NMOS_VTL w=1u l=45n
MLN (xn xp tail 0) NMOS_VTL w=1u l=45n
MCP (xp xn vdd vdd) PMOS_VTL w=1.2u l=45n
MCN (xn xp vdd vdd) PMOS_VTL w=1.2u l=45n
XBP (xp dtrue vdd) inv45
XBN (xn dcomp vdd) inv45
ends dynamic_slicer

subckt mirror_slicer (inp inn bit vb vdd)
MTAIL (tail vb 0 0) NMOS_VTL w=600n l=90n
MINP (nref inp tail 0) NMOS_VTL w=1u l=90n
MINN (pre inn tail 0) NMOS_VTL w=1u l=90n
MREF (nref nref vdd vdd) PMOS_VTL w=600n l=90n
MLOAD (pre nref vdd vdd) PMOS_VTL w=600n l=90n
// Weak rail clamps keep the high-impedance mirror nodes inside the device-safe range
// during sample-clock feedthrough; they are inactive in the nominal decision range.
MCLPREF (nref nref vdd vdd) PMOS_VTL w=100n l=90n
MCLNREF (nref nref 0 0) NMOS_VTL w=100n l=90n
MCLPPRE (pre pre vdd vdd) PMOS_VTL w=100n l=90n
MCLNPRE (pre pre 0 0) NMOS_VTL w=100n l=90n
MP1 (b1 pre vdd vdd) PMOS_VTL w=650n l=45n
MN1 (b1 pre 0 0) NMOS_VTL w=240n l=45n
MP2 (b2 b1 vdd vdd) PMOS_VTL w=4200n l=45n
MN2 (b2 b1 0 0) NMOS_VTL w=240n l=45n
MP3 (bit b2 vdd vdd) PMOS_VTL w=4200n l=45n
MN3 (bit b2 0 0) NMOS_VTL w=240n l=45n
Cpre (pre 0) capacitor c=10f
Cb1 (b1 0) capacitor c=10f
Cb2 (b2 0) capacitor c=10f
ends mirror_slicer

parameters vdd=1.1
VDD (vdd 0) vsource dc=vdd

// Digital fixtures drive the physical two-bit current DAC on the first carrier.









XLO250 (loi250p vdd) ring3 cload=925.9f
XINV250 (loi250p loi250n vdd) inv45
XQ250 (loi250p loq250n loq250p vdd) qphase cphase=1.443p

XLO500 (loi500p vdd) ring3 cload=456.7f
XINV500 (loi500p loi500n vdd) inv45
XQ500 (loi500p loq500n loq500p vdd) qphase cphase=722f

XLO750 (loi750p vdd) ring3 cload=300.1f
XINV750 (loi750p loi750n vdd) inv45
XQ750 (loi750p loq750n loq750p vdd) qphase cphase=481f

XLO1G (loi1gp vdd) ring3 cload=221.8f
XINV1G (loi1gp loi1gn vdd) inv45
XQ1G (loi1gp loq1gn loq1gp vdd) qphase cphase=361f



// ---- 4x4 RRAM crossbar CIM section (binary Ron/Roff + NMOS selector) ----
// WL drivers: carrier square waves buffered from each ring oscillator.
XWD250A (loi250p wl250b vdd) inv45
XWD250B (wl250b wl250 vdd) inv45
XWD500A (loi500p wl500b vdd) inv45
XWD500B (wl500b wl500 vdd) inv45
XWD750A (loi750p wl750b vdd) inv45
XWD750B (wl750b wl750 vdd) inv45
XWD1GA (loi1gp wl1gb vdd) inv45
XWD1GB (wl1gb wl1g vdd) inv45
parameters ron=1k roff=1meg rwl=20k
// per-row two-section RC lowpass: scales current and suppresses square-wave
// harmonics that would collide with the integer-multiple carrier grid
RW1A (wl250 rm1) resistor r=10k
CW1A (rm1 0) capacitor c=70.7f
RW1B (rm1 row1) resistor r=10k
CW1B (row1 0) capacitor c=70.7f
RW2A (wl500 rm2) resistor r=10k
CW2A (rm2 0) capacitor c=35.4f
RW2B (rm2 row2) resistor r=10k
CW2B (row2 0) capacitor c=35.4f
RW3A (wl750 rm3) resistor r=10k
CW3A (rm3 0) capacitor c=23.6f
RW3B (rm3 row3) resistor r=10k
CW3B (row3 0) capacitor c=23.6f
RW4A (wl1g rm4) resistor r=10k
CW4A (rm4 0) capacitor c=17.7f
RW4B (rm4 row4) resistor r=10k
CW4B (row4 0) capacitor c=17.7f
// 1T1R cell: RRAM resistor + minimum NMOS selector, read-enable gate at VDD
subckt rram_cell (row col vdd)
parameters rcell=1k
RCELL (row x) resistor r=rcell
// PMOS selector: gate grounded = read-enable asserted; well at vdd
MSEL (x 0 col vdd) PMOS_VTL w=270n l=45n
ends rram_cell
// programmed binary matrix G (rows=carriers, cols=BLs):
//   col0: 0 0 0 1   col1: 1 1 0 0   col2: 0 1 1 1   col3: 1 0 1 0
// col0 (the TIA-sensed bitline) is programmed with a single LRS row so the
// finite TIA input impedance cannot redistribute foreign carriers (the only
// composite-voltage hub then carries a single tone).
XC00 (row1 bl vdd) rram_cell rcell=1M
XC10 (row2 bl vdd) rram_cell rcell=1M
XC20 (row3 bl vdd) rram_cell rcell=1M
XC30 (row4 bl vdd) rram_cell rcell=1k
XC01 (row1 blc1 vdd) rram_cell rcell=1k
XC11 (row2 blc1 vdd) rram_cell rcell=1k
XC21 (row3 blc1 vdd) rram_cell rcell=1M
XC31 (row4 blc1 vdd) rram_cell rcell=1M
XC02 (row1 blc2 vdd) rram_cell rcell=1M
XC12 (row2 blc2 vdd) rram_cell rcell=1k
XC22 (row3 blc2 vdd) rram_cell rcell=1k
XC32 (row4 blc2 vdd) rram_cell rcell=1k
XC03 (row1 blc3 vdd) rram_cell rcell=1k
XC13 (row2 blc3 vdd) rram_cell rcell=1M
XC23 (row3 blc3 vdd) rram_cell rcell=1k
XC33 (row4 blc3 vdd) rram_cell rcell=1M
// evaluation-only virtual-ground column sensing for columns 1-3:
// ideal 0.80 V sources clamp the BLs (suppressing sneak recirculation);
// the column MVM current is read as the source branch current.
VBL1 (blc1 0) vsource dc=0.80
VBL2 (blc2 0) vsource dc=0.80
VBL3 (blc3 0) vsource dc=0.80

// One physical bitline TIA receives the summed four-carrier current.
RPB (vbp 0) resistor r=1.4k
MPREF (vbp vbp vdd vdd) PMOS_VTL w=1u l=45n
MPIN (tiaout vbp bl vdd) PMOS_VTL w=1u l=45n
RTIA (tiaout 0) resistor r=5k
CTIA (tiaout 0) capacitor c=10f
RVCMH (vdd vcm) resistor r=20k
RVCML (vcm 0) resistor r=20k
CVCM (vcm 0) capacitor c=10p
CRFP (tiaout rfp) capacitor c=100f
RRFBIAS (rfp vcm) resistor r=50k
RRFNBIAS (rfn vcm) resistor r=50k
RNB (vdd vbn) resistor r=10k
MNREF (vbn vbn 0 0) NMOS_VTL w=600n l=90n

VB65 (vb65 0) vsource dc=0.65
XBUF (rfp rfn bufp bufn vb65 vdd) diff_buffer
subckt butterworth250 (inp inn outp outn vcm)
L1p (inp n1p) inductor l=487.2n
L1n (inn n1n) inductor l=487.2n
C2p (n1p vcm) capacitor c=1.176p
C2n (n1n vcm) capacitor c=1.176p
L3p (n1p outp) inductor l=1.176u
L3n (n1n outn) inductor l=1.176u
C4p (outp vcm) capacitor c=487.2f
C4n (outn vcm) capacitor c=487.2f
RLPBW (outp vcm) resistor r=1k
RLNBW (outn vcm) resistor r=1k
ends butterworth250

XBW250 (bufp bufn bf250p bf250n vcm) butterworth250
XBP500 (bufp bufn bf500p bf500n vcm) tuned_select lval=20n cval=4.841p
XBP750 (bufp bufn bf750p bf750n vcm) tuned_select lval=20n cval=1.961p
XBP1G (bufp bufn bf1gp bf1gn vcm) tuned_select lval=20n cval=1.059p
XI250 (bf250p bf250n loi250p loi250n i250p i250n vbn vdd) gilbert_demod
XQ250D (bf250p bf250n loq250p loq250n q250p q250n vbn vdd) gilbert_demod
XI500 (bf500p bf500n loi500p loi500n i500p i500n vbn vdd) gilbert_demod
XQ500D (bf500p bf500n loq500p loq500n q500p q500n vbn vdd) gilbert_demod
XI750 (bf750p bf750n loi750p loi750n i750p i750n vbn vdd) gilbert_demod
XQ750D (bf750p bf750n loq750p loq750n q750p q750n vbn vdd) gilbert_demod
XI1G (bf1gp bf1gn loi1gp loi1gn i1gp i1gn vbn vdd) gilbert_demod
XQ1GD (bf1gp bf1gn loq1gp loq1gn q1gp q1gn vbn vdd) gilbert_demod

VCLK (clki 0) vsource type=pulse val0=0 val1=1.1 delay=20n rise=20p fall=20p width=1n period=10n
VCLKE (clke 0) vsource type=pulse val0=0 val1=1.1 delay=21.2n rise=20p fall=20p width=4n period=10n
XCLKI (clki clkn vdd) inv45
XCLKE (clke clkne vdd) inv45
VCLKH (clkh 0) vsource type=pulse val0=0 val1=1.1 delay=24.00n rise=20p fall=20p width=1n period=10n
XCLKH (clkh clkhn vdd) inv45

XSI250P (i250p si250p clki clkn vdd) sample_hold
XSI250N (i250n si250n clki clkn vdd) sample_hold
XSQ250P (q250p sq250p clki clkn vdd) sample_hold
XSQ250N (q250n sq250n clki clkn vdd) sample_hold
XSI500P (i500p si500p clki clkn vdd) sample_hold
XSI500N (i500n si500n clki clkn vdd) sample_hold
XSQ500P (q500p sq500p clki clkn vdd) sample_hold
XSQ500N (q500n sq500n clki clkn vdd) sample_hold
XSI750P (i750p si750p clki clkn vdd) sample_hold
XSI750N (i750n si750n clki clkn vdd) sample_hold
XSQ750P (q750p sq750p clki clkn vdd) sample_hold
XSQ750N (q750n sq750n clki clkn vdd) sample_hold
XSI1GP (i1gp si1gp clki clkn vdd) sample_hold
XSI1GN (i1gn si1gn clki clkn vdd) sample_hold
XSQ1GP (q1gp sq1gp clki clkn vdd) sample_hold
XSQ1GN (q1gn sq1gn clki clkn vdd) sample_hold

XDI250 (si250p si250n clke di250t di250c vdd) dynamic_slicer
XDQ250 (sq250p sq250n clke dq250t dq250c vdd) dynamic_slicer
XDI500 (si500p si500n clke di500t di500c vdd) dynamic_slicer
XDQ500 (sq500p sq500n clke dq500t dq500c vdd) dynamic_slicer
XDI750 (si750p si750n clke di750t di750c vdd) dynamic_slicer
XDQ750 (sq750p sq750n clke dq750t dq750c vdd) dynamic_slicer
XDI1G (si1gp si1gn clke di1gt di1gc vdd) dynamic_slicer
XDQ1G (sq1gp sq1gn clke dq1gt dq1gc vdd) dynamic_slicer

XAI250 (si250p si250n abi250 vbn vdd) mirror_slicer
XAQ250 (sq250p sq250n abq250 vbn vdd) mirror_slicer
XAI500 (si500p si500n abi500 vbn vdd) mirror_slicer
XAQ500 (sq500p sq500n abq500 vbn vdd) mirror_slicer
XAI750 (si750p si750n abi750 vbn vdd) mirror_slicer
XAQ750 (sq750p sq750n abq750 vbn vdd) mirror_slicer
XAI1G (si1gp si1gn abi1g vbn vdd) mirror_slicer
XAQ1G (sq1gp sq1gn abq1g vbn vdd) mirror_slicer

XLDI250 (di250t dbi250 clkh clkhn vdd) sample_hold
XLDQ250 (dq250t dbq250 clkh clkhn vdd) sample_hold
XLDI500 (di500t dbi500 clkh clkhn vdd) sample_hold
XLDQ500 (dq500t dbq500 clkh clkhn vdd) sample_hold
XLDI750 (di750t dbi750 clkh clkhn vdd) sample_hold
XLDQ750 (dq750t dbq750 clkh clkhn vdd) sample_hold
XLDI1G (di1gt dbi1g clkh clkhn vdd) sample_hold
XLDQ1G (dq1gt dbq1g clkh clkhn vdd) sample_hold

tran tran stop=200n maxstep=1p skipdc=no
save VDD:p VBL1:p VBL2:p VBL3:p wl250 wl500 wl750 wl1g row1 row2 row3 row4 blc1 blc2 blc3 bf250p bf250n bf500p bf500n bf750p bf750n bf1gp bf1gn bl tiaout rfp rfn db2500 db2501 db5000 db5001 db7500 db7501 db1g0 db1g1 XMOD250.vb XMOD250.nsum XMOD500.nsum XMOD750.nsum XMOD1G.nsum clki clke i250p i250n q250p q250n i500p i500n q500p q500n i750p i750n q750p q750n i1gp i1gn q1gp q1gn di250t di250c dq250t dq250c di500t di500c dq500t dq500c di750t di750c dq750t dq750c di1gt di1gc dq1gt dq1gc dbi250 dbq250 dbi500 dbq500 dbi750 dbq750 dbi1g dbq1g abi250 abq250 abi500 abq500 abi750 abq750 abi1g abq1g
